US08084484B2
a) 2-(4-Amino-phenyl)-propionitrile
To the flask was added THF/EtOH (1:1, 70 mL) followed by 2-(4-nitrophenyl)-propionitrile (13.2 g, 74.9 mmol) and 10% palladium carbon (1.07 g) at room temperature. The reaction mixture was hydrogenated and stirred for 30 minutes at 47 psi to 28 psi then filtered through celite bed, and washed with EtOAc. The filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:3) as eluant.

reactant | 2-(4-nitrophenyl)-propionitrile | 74.9 mmol, 13.2 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C#N)C | C9H8N2O2
catalyst | palladium carbon | 1.07 g | [C].[Pd]
solvent | THF EtOH | 70 mL | C1CCOC1.CCO
product | 2-(4-Amino-phenyl)-propionitrile | NC1=CC=C(C=C1)C(C#N)C | C9H10N2
